US06376672B1
In analogy to the procedure described in example 11(c) the (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was treated with palladium-II-acetate, triphenylphosphin and lithiumborohydride in tetrahydrofuran to yield the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 568 (M+H)+.

reactant | (3S,4R,5R)-4-(4-allyloxy-phenyl)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCC=C)OC[C@@H](COC)O | C35H45NO8
reactant | triphenylphosphin | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithiumborohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium-II-acetate | CC(=O)O.CC(=O)O.[Pd]
product | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-methoxy-propoxy]-4-(4-hydroxy-phenyl)-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)O)OC[C@@H](COC)O | C32H41NO8
